US06632810B2
Synthesis of methyl 1-phenyl-4,5,6-trimethoxyindole-2-carboxylate:
Methyl 4,5,6-trimethoxyindole-2-carboxylate (533 mg), bromobenzene (0.22 mL), copper oxide (64 mg) and potassium hydroxide (336 mg) were suspended in dry DMF (10 mL), and the suspension was refluxed and stirred for 6 hours under an argon atmosphere. After cooling, the reaction mixture was dissolved in water (100 mL) and filtered through celite. The filtrate was extracted with ethyl acetate, and the extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was dissolved in methanol (20 mL) and chloroform (20 mL), and water-soluble carbodiimide hydrochloride (192 mg) and N,N-dimethylaminopyridine (small amount) were added to the solution. The mixture was stirred overnight at room temperature. After concentrating the reaction mixture under reduced pressure, water was added to the residue to conduct extraction with ethyl acetate. The resultant organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by preparative TLC on silica gel (ethyl acetate:hexane=1:3) to obtain the title compound.

reactant | Methyl 4,5,6-trimethoxyindole-2-carboxylate | 533 mg | COC1=C2C=C(NC2=CC(=C1OC)OC)C(=O)OC | C13H15NO5
reactant | bromobenzene | 0.22 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | potassium hydroxide | 336 mg | [OH-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
catalyst | copper oxide | 64 mg | [Cu]=O
product | methyl 1-phenyl-4,5,6-trimethoxyindole-2-carboxylate | C1(=CC=CC=C1)N1C(=CC2=C(C(=C(C=C12)OC)OC)OC)C(=O)OC | C19H19NO5
